US05733707
77.5 g of methacryloyloxyethyl isocyanate (Karenzu MOI, available from Showa Denko K.K.) and 60 g of benzyl alcohol were dissolved in 260 g of dioxane. To the solution were then added 5 drops of di-n-butyltin dilaurate. The reaction mixture was then allowed to undergo reaction at a temperature of 65° C. for 3 hours. The dioxane and excess benzyl alcohol were then distilled off under reduced pressure. The residue was poured into water, extracted with ethyl acetate, and then dried. The solvent was then distilled off to obtain 106 g of benzyloxycarbonylaminoethyl methacrylate in the form of colorless oil.

reactant | methacryloyloxyethyl isocyanate | 77.5 g | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
reactant | benzyl alcohol | 60 g | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxane | 260 g | O1CCOCC1 | C4H8O2
catalyst | di-n-butyltin dilaurate | 5 drops | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | benzyloxycarbonylaminoethyl methacrylate | 106 g | C(C(=C)C)(=O)OCCNC(=O)OCC1=CC=CC=C1 | C14H17NO4
